data/mechanisms/records/IMS8-EQ8.58b.json
{"mechanism_id": "IMS8-EQ8.58b", "species": [{"species_id": "tetramethylcyclobutanone_radical_cation", "mapped_smiles": "[C:1]1(=[O+:2])[C:3]([CH3:6])([CH3:7])[CH2:4][C:5]1([CH3:8])[CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[C:3]([CH3:6])([CH3:7])[CH2:4][C:5]([CH3:8])([CH3:9])[C:1]#[O+:2]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isobutene_neutral", "mapped_smiles": "[C:3]([CH3:6])([CH3:7])=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acylium_radical_form", "mapped_smiles": "[C:5]([CH3:8])([CH3:9])[C:1]#[O+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dimethylketene_radical_cation", "mapped_smiles": "[C:5]([CH3:8])([CH3:9])=[C:1]=[O+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["tetramethylcyclobutanone_radical_cation"]}, {"state_id": "state_distonic", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["isobutene_neutral", "acylium_radical_form"]}, {"state_id": "state_products_ketene_form", "species_ids": ["isobutene_neutral", "dimethylketene_radical_cation"]}], "steps": [{"step_id": "step_alpha_cleavage_ring_opening", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage_alkene_loss", "from_state": "state_distonic", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_resonance_to_ketene", "from_state": "state_products", "to_state": "state_products_ketene_form", "step_class": "resonance_delocalization", "semantics": "resonance_interconversion", "electron_moves": [{"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 183, "equation": "8.58", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Same drawn scheme as IMS8-EQ8.58a, instantiated for the SECOND printed substituent set (R = CH3), i.e. 2,2,4,4-tetramethylcyclobutanone. Book draws 2 arc(s) on the first (leftmost) structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the odd electron of the n-ionized oxygen (the printed '+.' sits on O, the C=O double bond drawn intact) into the C(1)-O(2) bond; drawn arc 2 = a fishhook from the ring C(1)-C(3) sigma bond into that same C-O bond, raising it from double to triple (acylium). The undrawn move 3 puts the second electron of the cleaved C(1)-C(3) bond on C(3), which the book shows only as a radical dot in the next structure. The carbonyl carbon is in the ring, so this alpha cleavage merely OPENS the ring with no mass loss. Map numbers: 1 = carbonyl C, 2 = O, 3 = the alpha carbon cleaved off C1 (left CR2 of the diamond), 4 = the CH2 at the bottom of the diamond, 5 = the alpha carbon retained by the acyl group (right CR2); 6,7 = the two methyls on C3 and 8,9 = the two methyls on C5."}, {"evidence_id": "evidence_step_alkene_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_alkene_loss", "support_type": "textbook_proposed", "locator": {"page": 183, "equation": "8.58", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the second (ring-opened) structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the radical dot on C(3) into the forming C(3)=C(4) pi bond; drawn arc 2 = a fishhook from the C(4)-C(5) sigma bond into that same forming pi bond. The undrawn move 3 puts the second electron of C(4)-C(5) on C(5) - printed by the book as the dot next to the product's 'R2'. Both arrows on the page carry the label 'alpha'. For R = CH3 the expelled olefin is 2-methylpropene, C4H8 (m/z 56, not printed), and the charge stays on the C4H6O acyl fragment."}, {"evidence_id": "evidence_step_resonance", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_resonance_to_ketene", "support_type": "textbook_proposed", "locator": {"page": 183, "equation": "8.58", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Book draws 0 arc(s) here: it prints a double-headed resonance arrow linking the drawn product .R2C-C(triple bond)O+ with the ionized-ketene form R2C=C=O(+.) ('+.' on the oxygen, the two R groups on the terminal carbon). All three encoded moves are curator-supplied bookkeeping for that resonance interconversion. Convention (C): the fragmentation steps are written to the LOCALIZED acylium/alkyl-radical form drawn first and this step converts it to the ketene form drawn second; they are one ion, so only the ketene form is flagged detected. The text above the scheme motivates exactly this stabilization, quoting IE(Me2C=C=O) ~ 8.4 eV."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 126.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_70", "species_id": "dimethylketene_radical_cation", "step_id": "step_resonance_to_ketene", "observed_mz": 70.0413, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
